US07253165B2
Synthesis of {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-indan-2-yl-amine hydrochloride (Scheme III, Compound 1b)
The title compound is prepared from a mixture of 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole, 2-aminoindan hydrochloride, potassium carbonate, potassium iodide and 4% aqueous acetonitrile essentially as described above in Example 13 except that 3.2 equivalents of potassium carbonate is used. Purity by LC/MS=93%, [M+H]+=403.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | BrCCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C16H13BrFNO2
reactant | 2-aminoindan hydrochloride | Cl.NC1CC2=CC=CC=C2C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 3.2 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-indan-2-yl-amine hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2=CC=C(OCCCNC3CC4=CC=CC=C4C3)C=C2)C=C1 | InChI=1S/C25H23FN2O2.ClH/c26-20-8-11-23-24(16-20)30-28-25(23)17-6-9-22(10-7-17)29-13-3-12-27-21-14-18-4-1-2-5-19(18)15-21;/h1-2,4-11,16,21,27H,3,12-15H2;1H
